US07750003B2
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-4-ylsulfanylmethyl)pyrimidine
4-Mercaptopyridine (0.752 g, 6.77 mmol) was added to 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (1.596 g, 4.51 mmol) in acetonitrile (100 mL) at RT under air. DBU (0.3 mL, 2.01 mmol) was then added and the resulting solution was stirred at RT for 2 minutes. The solvent was removed and DCM was added. The reaction mixture was washed sequentially with water, the organic layer dried (MgSO4), filtered and evaporated. The crude product was chromatographed on silica, eluting with 0-2% methanol in DCM. Impure fractions were further chromatographed on silica, eluting with 0-4.5% methanol in DCM and combined with the initial pure fractions to give the desired material as a yellow gum (0.980 g).

reactant | 4-Mercaptopyridine | 6.77 mmol, 0.752 g | SC1=CC=NC=C1 | C5H5NS
reactant | 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 4.51 mmol, 1.596 g | ClC1=NC(=CC(=N1)CI)N1[C@H](COCC1)C | C10H13ClIN3O
reactant | DBU | 2.01 mmol, 0.3 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-(pyridin-4-ylsulfanylmethyl)pyrimidine | 0.980 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CSC1=CC=NC=C1 | C15H17ClN4OS
